US08754114B2
Step 3: N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
HCl in 1,4-dioxane (4.0 N, 2 mL) was added to a mixture of tert-butyl 3-(cyanomethyl)-3-(4-{3-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)azetidine-1-carboxylate (0.55 g, 0.92 mmol) in methylene chloride (10.0 mL). The reaction mixture was stirred at r.t. for 1 h. The mixture was adjusted to pH=8 with aqueous Na2CO3, and extracted with ethyl acetate (3×40 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with MeOH (with 5% NH3.H2O) in DCM (0-15%) to afford the desired product. LCMS (M+H)+: m/z=496.1.

reactant | HCl | Cl | ClH
reactant | tert-butyl 3-(cyanomethyl)-3-(4-{3-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)azetidine-1-carboxylate | 0.92 mmol, 0.55 g | C(#N)CC1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F | C28H28F3N9O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 4.0 N, 2 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 10.0 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC1(CNC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H20F3N9O
